US04186200
To 15 ml. of o-dichlorobenzene were added 5.8 g. of 2-cyanomethylene-cyclohexane-carboxylic acid ethyl ester, 6.5 g. of 3-aminopropanethiol hydrobromide and 3.1 g. of sodium acetate. Then, by treating the mixture as in Example 95, 800 mg. of 6-oxo-3,4,7,8,9,10-hexahydro-2H,6H-1,3-thiazino[3,2-b]isoquinoline was obtained.

reactant | 2-cyanomethylene-cyclohexane-carboxylic acid ethyl ester | C(C)OC(=O)C1C(CCCC1)=CC#N | C11H15NO2
reactant | 3-aminopropanethiol hydrobromide | Br.NCCCS
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | o-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 6-oxo-3,4,7,8,9,10-hexahydro-2H,6H-1,3-thiazino[3,2-b]isoquinoline | O=C1N2C(=CC=3CCCCC13)SCCC2 | C12H15NOS
